US08426447B2
A vessel was charged with (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.512 g, 1.457 mmol) in methanol (17.73 mL, 437 mmol). Methane sulfonic acid (0.945 mL, 14.57 mmol) was added, and the vial was sealed and placed in a 55° C. oil bath overnight. Potassium carbonate was added to quench the acid, and the mixture was filtered with the aid of DCM. The filtrate was evaporated, and the residue was soluble in MeOH/DCM, but some potassium carbonate still came through. The residue was purified by chromatography on a 50-g SNAP column, eluting with 0-100% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM. The material thus obtained was rechromatographed to under the same conditions to give (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol as a pale-yellow solid.

reactant | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 1.457 mmol, 0.512 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
reactant | methanol | 437 mmol, 17.73 mL | CO | CH4O
reactant | Methane sulfonic acid | 14.57 mmol, 0.945 mL | CS(=O)(=O)O | CH4O3S
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)OC)O | C20H19N3O4
